US08202885B2
A mixture of 115 mg of rac-toluene-4-sulfonic acid (1R*,2R*,4R*)-2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl ester and 55 mg of [3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amine in 2 mL of DIPEA was heated to 110° C. for 30 min. The reaction mixture was cooled to rt, quenched with MeOH-water and extracted with EtOAc. The organic phase was separated, dried and evaporated and the residue was purified by CC with EtOAc-MeOH (3:1) to give 34 mg of rac-(1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol as beige foam.

reactant | rac-toluene-4-sulfonic acid (1R*,2R*,4R*)-2-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl ester | 115 mg | O[C@@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)CCOS(=O)(=O)C2=CC=C(C=C2)C | C23H26O4S
reactant | [3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amine | 55 mg | N1C(=NC2=C1C=CC=C2)CCCNC | C11H15N3
solvent | DIPEA | 2 mL | CCN(C(C)C)C(C)C | C8H19N
product | rac-(1R*,2R*,4R*)-2-(2-{[3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 34 mg | N1C(=NC2=C1C=CC=C2)CCCN(CCC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)C | C27H33N3O
